US08859785B2
Synthesis of 2,5-di-tert-amylpyrrole
33.6 g (0.146 mol) of 3,3,6,6-tetramethyl-4,5-octanedione, 22.51 g (0.292 moles) of ammonium acetate and 50.1 mL (0.0.876 moles) of acetic acid were refluxed to 140° C. overnight. The resulting product mixture was neutralized with sodium bicarbonate solution, then extracted with hexanes. The aqueous layer was washed 3× with 100 mL of hexanes. The hexane layer was washed 3× with 100 mL of water then stood over 20 g of anhydrous magnesium sulfate for 2 hrs then removed by filtration. Hexanes was then removed by vacuum, yield 27.6 g (92%). Characterized by Mass Spectrometry: Parent ion at 207 m.u

reactant | 3,3,6,6-tetramethyl-4,5-octanedione | 0.146 mol, 33.6 g | CC(CC)(C(C(C(CC)(C)C)=O)=O)C | C12H22O2
reactant | ammonium acetate | 0.292 moles, 22.51 g | C(C)(=O)[O-].[NH4+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | acetic acid | 50.1 mL | C(C)(=O)O | C2H4O2
product | 2,5-di-tert-amylpyrrole | C(C)(C)(CC)C=1NC(=CC1)C(C)(C)CC | C14H25N
